US08633183B2
A-93) 4-[5-(6-Amino-pyridin-3-ylethynyl)-6-ethyl-pyrimidin-4-yl]-2-methoxy-benzoic acid
The title compound is synthesized according to general procedure GP8 starting from 7.5 g (19.3 mmol) 4-[5-(6-amino-pyridin-3-ylethynyl)-6-ethyl-pyrimidin-4-yl]-2-methoxy-benzoic acid methyl ester using 4.05 g (96.5 mmoL) LiOH in 100 mL water and 200 mL THF. The reaction mixture is stirred over night at room temperature. The solvent is removed under reduced pressure and the residue is taken up in water. Aqueous 1 M HCl is added until pH 5-6 is reached. The precipitated product is filtered off and washed with water and Acetonitrile. After drying 6.5 g (89%) of the desired product is obtained as solid material.

reactant | 4-[5-(6-amino-pyridin-3-ylethynyl)-6-ethyl-pyrimidin-4-yl]-2-methoxy-benzoic acid methyl ester | 19.3 mmol, 7.5 g | COC(C1=C(C=C(C=C1)C1=NC=NC(=C1C#CC=1C=NC(=CC1)N)CC)OC)=O | C22H20N4O3
reactant | LiOH | [Li+].[OH-]
solvent | water | 100 mL | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 4-[5-(6-Amino-pyridin-3-ylethynyl)-6-ethyl-pyrimidin-4-yl]-2-methoxy-benzoic acid | NC1=CC=C(C=N1)C#CC=1C(=NC=NC1CC)C1=CC(=C(C(=O)O)C=C1)OC | C21H18N4O3
